US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2′-fluorobiphenyl-4-carbonitrile as described in Example 65 to give 2′-fluoro-5′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-4-carbonitrile as a yellow solid: δH (360 MHz, CDCl3) 7.26 (1H, d, J 7), 7.44 (1H, dd, J 8 and 8), 7.55-7.63 (2H, m), 7.70 (2H, dd, J 7 and 1), 7.79 (2H, dd, J 7 and 1), 8.11 (1H, s), 8.74 (1H, d, J 7); m/z (ES+) 383 (M++H).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 5′-(5,5-dimethyl-[1,3,2]dioxaborinan-2-yl)-2′-fluorobiphenyl-4-carbonitrile | CC1(COB(OC1)C=1C=CC(=C(C1)C1=CC=C(C=C1)C#N)F)C | C18H17BFNO2
product | 2′-fluoro-5′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-4-carbonitrile | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C2=CC=C(C=C2)C#N | C20H10F4N4
